US06329313B1
Bis(pentafluorophenyl)borane
6.9 g (20 mmol) of chlorobis(pentafluorophenyl)borane are cooled to −78° C., and 8.9 g (100 mmol) of chlorodimethylsilane are slowly added dropwise. On warming to room temperature, the borane dissolves and a white precipitate is formed. The mixture is subsequently stirred for 1 hour and the precipitate is filtered off and washed with 20 ml of pentane.

reactant | chlorobis(pentafluorophenyl)borane | 20 mmol, 6.9 g | ClB(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F | C12BClF10
reactant | chlorodimethylsilane | 100 mmol, 8.9 g | Cl[SiH](C)C | C2H7ClSi
reactant | borane | B | BH3
product | Bis(pentafluorophenyl)borane | FC1=C(C(=C(C(=C1BC1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C12HBF10
